US09108977B2
To a solution of 828 mg of t-butyl 7-hydroxy-6-methyl-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate in 25 ml of DMF were added 0.268 ml of methyl bromoacetate and 390 mg of potassium carbonate, followed by stirring at 55° C. for 13 hours. The reaction mixture was allowed to cool, and water added, followed by extraction with EtOAc twice. The combined organic layer was washed with saturated brine, the organic layer was dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 1.076 g of t-butyl 7-(2-methoxy-2-oxoethoxy)-6-methyl-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate as a yellowish white solid.

reactant | t-butyl 7-hydroxy-6-methyl-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 828 mg | OC1=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1[N+](=O)[O-])C | C16H22N2O5
reactant | methyl bromoacetate | 0.268 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 390 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | t-butyl 7-(2-methoxy-2-oxoethoxy)-6-methyl-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.076 g | COC(COC1=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1[N+](=O)[O-])C)=O | C19H26N2O7
